US07148226B2
6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]-3-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)thio]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to Example C(40), where 3-chloro-6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one was substituted in place of 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one and 5-chloro-1-methyl-1H-benzimidazole-2-thiol was substituted in place of 5-chloro-1-isopropyl-1H-benzimidazole-2-thiol.

reactant | 3-chloro-6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCC1=C(C=C(C(=C1)Cl)OC)OC)=O | C20H24Cl2O5
reactant | 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | 5-chloro-1-methyl-1H-benzimidazole-2-thiol | ClC1=CC2=C(N(C(=N2)S)C)C=C1 | C8H7ClN2S
reactant | 5-chloro-1-isopropyl-1H-benzimidazole-2-thiol | ClC1=CC2=C(N(C(=N2)S)C(C)C)C=C1 | C10H11ClN2S
product | 6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]-3-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)thio]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C(=CC(=C(C1)CCC1(CC(=C(C(O1)=O)SC1=NC2=C(N1C)C=CC(=C2)Cl)O)C2CCCC2)OC)OC | C28H30Cl2N2O5S
